US03941772
Azacyclopentane-2,2-diphosphonic acid ##SPC1##
85.0 gm of 2-pyrrolidone (1.0 mol) and 164 gm of H3PO3 (2.0 mols) were melted at 80°C. While stirring this melt, 176 ml of PCl3 (2.0 mols) were added thereto. The mixture was stirred for three additional hours and was left standing at 70°C overnight. Then, three liters of H2O were used for the hydrolysis. The solution was boiled with activated carbon; and after filtration, the reaction product was precipitated with acetone. The white substance was dissolved in water, and passed over a cation exchanger. The solution was concentrated; and the substance was separated upon the addition of ethanol. The yield of crystalline azacyclopentane-2,2-diphosphonic acid was 95 gm, or about 41% of the theory. The molecular weight of the compound was determined by titration to be 230 (calculated: 231.09).

reactant | 2-pyrrolidone | 1.0 mol, 85.0 gm | N1C(CCC1)=O | C4H7NO
reactant | H3PO3 | 2.0 mols, 164 gm | OP(=O)O | H3O3P
reactant | PCl3 | 2.0 mols, 176 ml | P(Cl)(Cl)Cl | Cl3P
solvent | H2O | three liters | O | H2O
product | Azacyclopentane-2,2-diphosphonic acid | N1C(CCC1)(P(O)(=O)O)P(O)(=O)O | C4H11NO6P2
